US05602277
A mixture of 4-methoxycarbonyl-2-nitrobenzoic acid (3.6 g, 0.016 mol) in thionyl chloride (32 mL) was heated to reflux in the presence of two drops of dimethylformamide for 3 h. Thionyl chloride was distilled and the concentrate was left under vacuum for 0.5 h. The residue was dissolved in dichloromethane (10 mL) and added to a solution of aqueous methylamine (40%, 2.0 g, 0.026 mol) in water (5 mL) over a period of 5 min. The mixture was further stirred for 10 min and the white precipitate was collected by filtration. The cake was washed with water, dried, and recrystallized from ethyl acetate-hexane to give 2.1 g (55%) of methyl 4-(methylamino)carbonyl-3-nitrobenzoate as white needles, mp 155° C.

reactant | 4-methoxycarbonyl-2-nitrobenzoic acid | 0.016 mol, 3.6 g | COC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | methylamine | 0.026 mol, 2.0 g | CN | CH5N
solvent | thionyl chloride | 32 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
product | methyl 4-(methylamino)carbonyl-3-nitrobenzoate | 2.1 g, 55% | CNC(=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H10N2O5
